US06482986B1
3-Chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenylethyne, Compound II.1.
5.3 g of sodium hydroxide are dissolved in 150 ml of water under an inert atmosphere and with vigorous stirring. 80 ml of 1,4-dioxane are added and the mixture is heated to reflux. 15 g of 3-chloro-3-[3-chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]propenal (compound IV.1) dissolved in 130 ml of 1,4-dioxane are added rapidly and the reaction mixture is maintained at reflux for 1 hour. After cooling to room temperature, the reaction mixture is poured into a large volume of dichloromethane. The phases are separated after settling has taken place, the organic phase is dried over magnesium sulphate and the solvents are evaporated off under reduced pressure. The residue is purified by chromatography on a column of silica gel, eluting with cyclohexane; yield=80%.

reactant | sodium hydroxide | 5.3 g | [OH-].[Na+]
reactant | 3-chloro-3-[3-chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]propenal | 15 g | ClC(=CC=O)C1=CC(=C(C=C1)C1CC(CC(C1)(C)C)(C)C)Cl | C19H24Cl2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | 150 ml | O | H2O
solvent | 1,4-dioxane | 130 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 3-Chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenylethyne | yield=80% | ClC=1C=C(C=CC1C1CC(CC(C1)(C)C)(C)C)C#C | C18H23Cl
